US06620829B2
2-Cyano-3-isopropyl-hexanoic acid methyl ester 183
A 2.0 M solution of propyl magnesium chloride in Et2O (9.8 mL, 19.6 mmol) is added to a solution of 2-cyano-4-methyl-2-pentenoic acid (3.0 g, 19.6 mmol) in 50 mL of THF which is cooled in an IPA/dry ice bath to −40° C. under argon. The solution is stirred for 4 hours, and the reaction is quenched by addition of 50 mL of saturated KH2PO4. The THF is evaporated, and the remaining oil is chromatographed under medium pressure over silica gel with 50% CH2Cl2/hexane. Yield=1.9 g (50%) of 2-cyano-3-isopropyl-hexanoic acid methyl ester as an oil.

reactant | propyl magnesium chloride | C(CC)[Mg]Cl
reactant | Et2O | 19.6 mmol, 9.8 mL | CCOCC | C4H10O
reactant | 2-cyano-4-methyl-2-pentenoic acid | 19.6 mmol, 3.0 g | C(#N)C(C(=O)O)=CC(C)C | C7H9NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Cyano-3-isopropyl-hexanoic acid methyl ester | COC(C(C(CCC)C(C)C)C#N)=O | C11H19NO2
